US04755511
In a manner similar to that given in Preparation 3, 6-hydroxy-1-tetralone was treated with glyoxylic acid monohydrate and hydrazine hydrate to give 5,6-dihydro-8-hydroxybenzo[h]cinnolin-3[2H]-one (m.p. 300°, from dimethylformamide/ethanol); ν(Nujol mull) 3400-2000, 1652, 1594, and 1582cm-1 ; δ(DMSO-d6) 2.77 (4H,s,5,6-H2), 6.65 (2H,m, 4,7-H), 6.74 (1H,m,9-H), 7.73 (1H,d,10-H), 9.93 (1H,d(br),OH), 12.7 (1H,d(br)NH).

reactant | 6-hydroxy-1-tetralone | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | glyoxylic acid monohydrate | O.C(C=O)(=O)O
reactant | hydrazine hydrate | O.NN
product | 5,6-dihydro-8-hydroxybenzo[h]cinnolin-3[2H]-one | OC=1C=CC2=C(CCC3=CC(NN=C23)=O)C1 | C12H10N2O2
